US03947374
Preparation of 2-bromo-4,6-dimethoxy-s-triazine
A mixture of 3.17 g. (0.01 mole) of cyanuric bromide, 1.78 g sodium bicarbonate and 18 ml. methanol was heated under refluxing conditions with stirring for 2 hours. The mixture was cooled and diluted with 50 ml. water. The product was isolated by filtration, washed with water and dried, giving 1.79 g. of white solid, m.p. 118°-120°C.; crystallized from 75 ml. cyclohexane, m.p. 120°-121°C.

reactant | cyanuric bromide | 0.01 mole | N1=C(Br)N=C(Br)N=C1Br | C3Br3N3
reactant | sodium bicarbonate | 1.78 g | C([O-])(O)=O.[Na+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 2-bromo-4,6-dimethoxy-s-triazine | BrC1=NC(=NC(=N1)OC)OC | C5H6BrN3O2
